US04035559
To a 500 ml four-necked flask equipped with a thermometer, reflux condenser, stirrer and 200 ml dropping funnel were added 240 ml of water, 2.4g (0.06 mole) of sodium hydroxide, 0.02g of sodium hydrosulfite as an anti-colorant, 0.05g of trimethylbenzylammonium chloride as a surfactant and 6.7g (0.05 mole) of m-isopropenylphenol. The mixture was made a complete solution. Thereafter, 120 ml of a solution of 5.075g (0.025 mole) of terephthalic acid chloride in methylene chloride was added dropwise from the dropping funnel at room temperature over 10 to 15 minutes during which the solution in the flask was violently stirred. After completion of the addition, the reaction solution was stirred at room temperature for about 2 hours. The methylene chloride layer was separated, washed with two 200 ml portions of 5% aqueous sodium hydroxide solution and three 200 ml portions of water, and dried over anhydrous calcium chloride. On evaporating the methylene chloride, bis-(3-isopropenylphenyl)terephthalate was obtained as an almost white solid.

reactant | sodium hydroxide | 0.06 mole, 2.4g | [OH-].[Na+]
reactant | sodium hydrosulfite | 0.02g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | m-isopropenylphenol | 0.05 mole, 6.7g | C(=C)(C)C=1C=C(C=CC1)O | C9H10O
reactant | terephthalic acid chloride | 0.025 mole, 5.075g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
catalyst | trimethylbenzylammonium chloride | 0.05g | [Cl-].C[N+](CC1=CC=CC=C1)(C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 240 ml | O | H2O
product | bis-(3-isopropenylphenyl)terephthalate | C(=C)(C)C=1C=C(C=CC1)OC(C1=CC=C(C(=O)OC2=CC(=CC=C2)C(=C)C)C=C1)=O | C26H22O4
